US06589970B2
Step 6: 2-Butyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide.
A mixture of 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide (0.5587 g, 1.2 mmol), prepared in the previous step, bromoacetonitrile (0.10 mL, 1.44 mmol) and potassium carbonate (0.83 g, 6 mmol) in 10 mL of DMF was stirred under nitrogen at room temperature for 18 h (overnight). The reaction was diluted with ethyl acetate and extracted multiple times with water. The organic layer was dried (MgSO4) and the solvent removed under reduced pressure to give a brown oil. The oil was chromatographed on a 90 g KP-SIL 60 Δ Biotage column using 5% ethyl acetate in methylene chloride as the eluent. Isolation of the desired product gave 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide (0.48 g, 79%) as a clear oil, MS m/z: 505 [M+H]+.

reactant | 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide | 1.2 mmol, 0.5587 g | BrC1=C2C=CC(=CC2=CC=C1O)CN(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)C | C25H24BrNO3
reactant | bromoacetonitrile | 1.44 mmol, 0.10 mL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 6 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide | 0.48 g, 79% | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)C | C27H25BrN2O3
